US07592342B2
Preparation of N-{5-[3-(1-methyl-1H-pyrazol-4-yl)-6-quinoxalinyl]-3-pyridinyl}-4-morpholinesulfonamide
In an oven-dried flask under nitrogen, a solution of 5-[3-(1-methyl-1H-pyrazol-4-yl)-6-quinoxalinyl]-3-pyridinamine (99 mg, 0.327 mmol) in pyridine (3 mL) at room temperature was treated with morpholine-4-sulfonyl chloride (96 mg, 0.491 mmol) by syringe. The reaction was stirred at room temperature for 16.5 hours. The reaction was very sluggish so the reaction was placed in an oil bath at 50° C. and stirred at that temperature for 23 hours. The reaction was progressing to the desired product as determined by LCMS but was not yet complete. The reaction mixture was stirred for an additional 4 days at 50° C. The reaction did not progress to completion. The reaction was cooled to room temperature and concentrated in vacuo. The residue was taken up into 200 mL ethyl acetate and 50 mL water. The organic layer was washed with saturated aqueous sodium bicarbonate solution (100 mL) followed by brine (100 mL), dried over magnesium sulfate and concentrated in vacuo. Purification by silica gel chromatography eluting with 0-10% methanol in dichloromethane provided the desired product as a residue which was not pure. Addition of dichloromethane/ether resulted in precipitate formation. The precipitate was collected by filtration. Recrystallization of the precipitate from ethanol provided the title compound (26 mg, 18%) as a rust-coloured solid. MS(ES)+ m/e 452.0 [M+H]+.

reactant | 5-[3-(1-methyl-1H-pyrazol-4-yl)-6-quinoxalinyl]-3-pyridinamine | 0.327 mmol, 99 mg | CN1N=CC(=C1)C=1C=NC2=CC=C(C=C2N1)C=1C=C(C=NC1)N | C17H14N6
reactant | morpholine-4-sulfonyl chloride | 0.491 mmol, 96 mg | N1(CCOCC1)S(=O)(=O)Cl | C4H8ClNO3S
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | N-{5-[3-(1-methyl-1H-pyrazol-4-yl)-6-quinoxalinyl]-3-pyridinyl}-4-morpholinesulfonamide | CN1N=CC(=C1)C=1C=NC2=CC=C(C=C2N1)C=1C=C(C=NC1)NS(=O)(=O)N1CCOCC1 | C21H21N7O3S
